US04308269
In 800 ml of dry tetrahydrofuran (THF) is dissolved 15.0 g of antibiotic Ansamitocin mixture (12% of ansamitocin P-2, 71% of P-3 and 17% of P-4) and under dry nitogen gas streams, the solution is cooled to -50° C. in a dry ice-acetone bath. Then, 13.0 g of lithium aluminum hydride (LAH) is added in a single dose and the mixture is stirred at -50° C. to -22° C. for 2 hours. Then, at -28° C., a further 3 g of LAH is added and the reaction mixture is stirred at -28° C. to -22° C. for 80 minutes. Thereafter, at -50° C., 750 ml of 2N HCl is added dropwise with caution and the reaction mixture is extracted three times with 2.6 l, 1.6 l and 0.8 l portions of ethyl acetate. The extracts are pooled, washed with a saturated aqueous solution of sodium chloride (100 ml×2) and dried (MgSO4, 250 g). The solvent is distilled off under reduced pressure and the residue (13.6 g) is chromatographed on a column of silica gel (1.2 kg), elution being carried out with ethyl acetate-water (98.5: 1.5, V/V). The eluate is collected in 400-gram fractions. Fractions 35 through 52 are pooled, the solvent distilled off and the residue dried in vacuo to obtain 7.25 g of maytansinol. Then, fractions 53 through 68 are similarly treated to obtain 1.55 g of a substantially equimolar mixture of maytansinol and dechloromaytansinol. Similarly, fractions 69 through 86 yield 0.78 g of dechloromaytansinol.

reactant | ansamitocin P-2 | CCC(=O)O[C@H]1CC(=O)N(C2=C(C(=CC(=C2)C/C(=C/C=C/[C@H]([C@]3(C[C@@H]([C@H]([C@H]4[C@]1(O4)C)C)OC(=O)N3)O)OC)/C)OC)Cl)C | C31H41ClN2O9
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | maytansinol | 7.25 g | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O | C28H37ClN2O8
